US08664220B2
Step 1: (4′-{4-[(1-Benzyl-1H-[1,2,3]triazol-4-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using (1-benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol and [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester.

reactant | (1-benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol | C(C1=CC=CC=C1)N1N=NC(=C1)C(O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C20H17BrN4O2
reactant | [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO4
product | (4′-{4-[(1-Benzyl-1H-[1,2,3]triazol-4-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C=1N=NN(C1)CC1=CC=CC=C1)=O | C30H28N4O4
